US07153878B2
5-Isopropenyl-4-isopropyl-2-(4-trifluoromethyl-phenyl)-oxazole
4-Isopropyl-2-(4-trifluoromethyl-phenyl)-oxazole-5-carboxylic acid methyl ester (5.0 g, 15.3 mmol) and tetrahydrofuran (100 mL) are stirred in ice/water. Methyl magnesium bromide (12.7 mL, 38.2 mmol, 3M in ether) is added and the mixture is stirred at room temperature 3 hr. The reaction is cooled on ice/water and quenched with aqueous saturated ammonium chloride (15 mL). The product is extracted into ethyl acetate (3×50 mL). The combined extracts are dried over anhydrous magnesium sulfate, filtered, and concentrated. The residue is taken up in toluene (50 mL) and p-toluenesulfonic acid monohydrate (0.2 g, 1.05 mmol) is added and the mixture is heated to reflux for 1 hr. The mixture is concentrated and the residue is purified via silica chromatography eluting the product with hexanes to afford the product as a yellow solid, 4.17 g, 92%. MS M++1 296. The structure is confirmed by 1H NMR spectroscopy.

reactant | 4-Isopropyl-2-(4-trifluoromethyl-phenyl)-oxazole-5-carboxylic acid methyl ester | 15.3 mmol, 5.0 g | COC(=O)C1=C(N=C(O1)C1=CC=C(C=C1)C(F)(F)F)C(C)C | C15H14F3NO3
reactant | Methyl magnesium bromide | 38.2 mmol, 3M, 12.7 mL | C[Mg]Br
reactant | p-toluenesulfonic acid monohydrate | 1.05 mmol, 0.2 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
product | 5-Isopropenyl-4-isopropyl-2-(4-trifluoromethyl-phenyl)-oxazole | C(=C)(C)C1=C(N=C(O1)C1=CC=C(C=C1)C(F)(F)F)C(C)C | C16H16F3NO
